US05043354
To a solution of 5-(2,3-epoxy-3-methylbutyl)-2-methoxyhydroquinone diacetate (1.848 g) in methanol (36 ml) was added potassium hydrogencarbonate (1.50 g) in one portion. The mixture was stirred for 21 hours at ambient temperature and concentrated in vacuo. The residue was dissolved in a mixture of ethyl acetate (30 ml) and saturated sodium chloride solution (30 ml). The separated organic layer was washed with saturated sodium chloride solution, dried, and evaporated to dryness. The oily residue was crystallized from isopropyl ether to yield 2,3-dihydro-2-(1-hydroxy-1-methylethyl)-6-methoxy-5-benzofuranol (964 mg) as a white solid.

reactant | 5-(2,3-epoxy-3-methylbutyl)-2-methoxyhydroquinone diacetate | 1.848 g | C(C)(=O)O.C(C)(=O)O.O1C(CC=2C(=CC(=C(O)C2)OC)O)C1(C)C
reactant | potassium hydrogencarbonate | 1.50 g | C(O)([O-])=O.[K+]
solvent | methanol | 36 ml | CO | CH4O
product | 2,3-dihydro-2-(1-hydroxy-1-methylethyl)-6-methoxy-5-benzofuranol | 964 mg | OC(C)(C)C1OC2=C(C1)C=C(C(=C2)OC)O | C12H16O4
